US08431695B2
Preparation of 7-(octahydropyrazino[2,1-c][1,4]oxazin-3-yl)-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
Palladium on carbon (60 mg, 10% by wt.) was placed under an inert atmosphere and suspended in AcOH (5 mL). A solution of 7-(8-benzyloctahydropyrazino[2,1-c][1,4]oxazin-3-yl)-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine (600 mg, 1.08 mmol) in AcOH (6 mL) was added. The reaction mixture was placed under H2 atmosphere (1 Atm pressure) and stirred overnight. Additional amounts of palladium on carbon (10% by wt.) were added as needed until the reaction was complete as observed by HPLC. The resulting mixture was filtered through a pad of Celite® and the solvent was concentrated under reduced pressure. Trituration with Et2O afforded 150 mg (29%) of the desired product as an off-white solid. 1H NMR (300 MHz, DMSO-d6) 9.16 (s, 1 H), 8.10 (d, 2 H), 7.94 (s, 1 H), 7.85 (d, 1 H), 7.68 (s, 1 H), 7.58 (t, 2 H), 7.44 (t, 1 H), 7.21 (dd, 1H), 6.78 (s, 1H), 5.14 (dd, 1H), 3.74 (dd, 1H), 3.49-3.28 (m, 1H), 2.94 (dd, 1H), 2.75-2.60 (m, 5H), 2.46-2.38 (m, 1H), 2.26-2.08 (m, 3H); LC-MS [M+H]+=467, RT=0.91 min.

reactant | 7-(8-benzyloctahydropyrazino[2,1-c][1,4]oxazin-3-yl)-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 1.08 mmol, 600 mg | C(C1=CC=CC=C1)N1CC2COC(CN2CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)C2=CC=CC=C2 | C33H32N8O
catalyst | Palladium on carbon | 60 mg | [Pd] | Pd
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
solvent | AcOH | 6 mL | CC(=O)O | C2H4O2
product | 7-(octahydropyrazino[2,1-c][1,4]oxazin-3-yl)-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 150 mg, 29% | C1OC(CN2C1CNCC2)C2=CC(=C1C(=NC=NN12)N)C=1C=CC2=CN(N=C2C1)C1=CC=CC=C1 | C26H26N8O
